US06448424B1
Preparation of bis(tetrahydrofluorenyl)dimethylsilane
Following the procedure described in example 1 [step (c)], tetrahydrofluorene (17.6 mmol), butyllithium (11 ml of a solution 1.6M in hexane, 17.6 mmol) and dichlorodimethylsilane (1.07 ml, 8.81 mmol) gave a yellow oil.

reactant | tetrahydrofluorene | 17.6 mmol | C1CCCC=2C3=CC=CC=C3CC12 | C13H14
reactant | butyllithium | C(CCC)[Li]
reactant | dichlorodimethylsilane | 8.81 mmol, 1.07 ml | Cl[Si](C)(C)Cl | C2H6Cl2Si
solvent | hexane | CCCCCC | C6H14
product | bis(tetrahydrofluorenyl)dimethylsilane | C1(CCCC=2C3=CC=CC=C3CC12)[Si](C)(C)C1CCCC=2C3=CC=CC=C3CC12 | C28H32Si
